US06159990
b. 3-(4-Cyano-4-phenylpiperidin-1-yl)propylamine
To a solution of 3-(4-cyano-4-phenylpiperidin-1-yl)propylphthalimide (112 g, 0.3 mol) in methanol (1. 5 L), hydrazine (30 mL) was added and the mixture was stirred and refluxed for 20 h. It was cooled, the white solid formed was filtered and washed with more methanol (200 mL). Solvent was evaporated from the filtrate and residue was dried under vacuum for 4 h. Chloroform (500 mL) was added to this, stirred for 1 h and filtered. The white solid was washed with more chloroform (200 mL), the solvent was evaporated from the combined filtrates to leave the product as an oil (70 g, 96%).

reactant | 3-(4-cyano-4-phenylpiperidin-1-yl)propylphthalimide | 0.3 mol, 112 g | C(#N)C1(CCN(CC1)CCCC1=C2C(C(=O)NC2=O)=CC=C1)C1=CC=CC=C1 | C23H23N3O2
reactant | hydrazine | 30 mL | NN | H4N2
solvent | methanol | 5 L | CO | CH4O
product | 3-(4-Cyano-4-phenylpiperidin-1-yl)propylamine | 70 g, 96% | C(#N)C1(CCN(CC1)CCCN)C1=CC=CC=C1 | C15H21N3
